US06479518B2
Step B: 3-(SR)-(1-(RS)-(3,5-Bis(trifluoromethyl)phenyl)-ethoxy)-2-(RS)-phenylcyclopentane-1-(RS)-carboxylic acid chloride (from lower Rf α-methyl isomer) (Racemic 2,3-trans isomers)
A solution of 855 mg 3-(SR)-(1-(RS)-(3,5-bis(trifluoromethyl)phenyl)-ethoxy)-2-(RS)-phenylcyclopentane-1-(RS)-carboxylic acid in 20 mL of dry dichloromethane was treated with 2 drops of DMF followed by 0.36 mL of oxalyl chloride. After 1 hour the reaction was evaporated and the residual yellow oil was concentrated twice more from dichloromethane.

reactant | 3-(SR)-(1-(RS)-(3,5-bis(trifluoromethyl)phenyl)-ethoxy)-2-(RS)-phenylcyclopentane-1-(RS)-carboxylic acid | 855 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)OC1C(C(CC1)C(=O)O)C1=CC=CC=C1)(F)F | C22H20F6O3
reactant | oxalyl chloride | 0.36 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 3-(SR)-(1-(RS)-(3,5-Bis(trifluoromethyl)phenyl)-ethoxy)-2-(RS)-phenylcyclopentane-1-(RS)-carboxylic acid chloride | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)OC1C(C(CC1)C(=O)Cl)C1=CC=CC=C1)(F)F | C22H19ClF6O2
